US05155113
Preparation of 5-chloro-4-nicotinoyloxy-2-pyridone
A 2.93 g quantity of nicotinoyl chloride hydrochloride was added to a suspension of 2.00 g of 5-chloro-4-hydroxy-2-pyridone in 100 ml of pyridine, and the mixture was stirred at room temperature for 9 hours. The reaction mixture was concentrated and the concentrate was washed with ethyl acetate and water, thereby producing 1.77 g of the title compound in a yield of 51%.

reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 5-chloro-4-hydroxy-2-pyridone | 2.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-4-nicotinoyloxy-2-pyridone | 1.77 g, yield of 51% | ClC=1C(=CC(NC1)=O)OC(C1=CN=CC=C1)=O | C11H7ClN2O3
